US07713994B2
4-Azidomethyl-1-butyl-2-methoxy-benzene
Following the same procedure for the preparation of 4-Azidomethyl-2-methoxy-biphenyl, the title compound is prepared from 1-Butyl-4-chloromethyl-2-methoxy-benzene (crude material from the previous step) in 36% yield (overall yield for 4 steps).

reactant | 4-Azidomethyl-2-methoxy-biphenyl | N(=[N+]=[N-])CC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C14H13N3O
reactant | 1-Butyl-4-chloromethyl-2-methoxy-benzene | C(CCC)C1=C(C=C(C=C1)CCl)OC | C12H17ClO
product | 4-Azidomethyl-1-butyl-2-methoxy-benzene | 36% yield | N(=[N+]=[N-])CC1=CC(=C(C=C1)CCCC)OC | C12H17N3O
